US07319099B2
(c) 1-(4-Ethanesulfonyl-2-fluoro-phenyl)-piperazine
To 2.0 mmol 4-ethanesulfonyl-1,2-difluoro-benzene in 5 ml N,N-dimethylacetamide was added 5.6 mmol piperazine and the mixture was heated at 80° C. for 45 min. The mixture was then concentrated in vacuo to afford the title compound. MS (m/e): 273.0 (M+H+, 100%)

reactant | 4-ethanesulfonyl-1,2-difluoro-benzene | 2.0 mmol | C(C)S(=O)(=O)C1=CC(=C(C=C1)F)F | C8H8F2O2S
reactant | piperazine | 5.6 mmol | N1CCNCC1 | C4H10N2
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | 1-(4-Ethanesulfonyl-2-fluoro-phenyl)-piperazine | C(C)S(=O)(=O)C1=CC(=C(C=C1)N1CCNCC1)F | C12H17FN2O2S
